US05627215
(E)-1-Ally-14-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.28 g (0.418 mmol) of (E)-1-allyl-14-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 6 ml of 3N methanolic hydrochloric acid is stirred for 6 h at room temperature, and then 10 ml of diethyl ether are added. Working up analogously to Example 1 yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ1.28(t,3H); 2.05-2.17(m,4H); 3.07-3.19(m,10H); 3.69(d,2H); 3.77(d,4H); 5.49-5.55(m,2H); 5.84-5.98(m,1H); 6.04-6.07(m,2H).

reactant | (E)-1-allyl-14-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.418 mmol, 0.28 g | C(C=C)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H64N4O8
reactant | hydrochloric acid | 3N, 6 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (E)-1-Ally-14-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(C=C)NCCCNC\C=C\CNCCCNCC | InChI=1S/C15H32N4.4ClH/c1-3-9-17-13-8-15-19-11-6-5-10-18-14-7-12-16-4-2;;;;/h3,5-6,16-19H,1,4,7-15H2,2H3;4*1H/b6-5+;;;;
